US07582773B2
Step 2: Synthesis of 1-Benzyl-5-bromo-2,3-dimethyl-1H-indole.
The desired product was prepared using a procedure similar to step 2 of example 3. Thus, 5-bromo-2,3-dimethyl-1H-indole (1.793 g, 8 mmol) was reacted with k-t-butoxide (0.943 g, 8.4 mmol) and benzyl bromide (1.442 g, 8.4 mmol) in DMF (20 ml) to give the product (1.872 g, 5.958 mmol, 74%) as a pink solid. 1H NMR (DMSO-d6) δ 2.18 (s, 3H), 2.26 (s, 3H), 5.38 (s, 21), 6.94 (d, J=7.3 Hz, 2H), 7.12 (dd, J=1.8, 8.6 Hz, 1H), 7.20 (t, J=7.2 Hz, 1H), 7.27 (t, J=7.2 Hz, 2H), 7.32 (d, J=8.7 Hz, 1H), 7.59 (d, J=1.8 Hz, 1H); [EI], m/z 313/315 (M)+.

reactant | 5-bromo-2,3-dimethyl-1H-indole | 8 mmol, 1.793 g | BrC=1C=C2C(=C(NC2=CC1)C)C | C10H10BrN
reactant | benzyl bromide | 8.4 mmol, 1.442 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-5-bromo-2,3-dimethyl-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Br)C)C | C17H16BrN
